US04638067
According to example 30, reacting 7-bromoacetyl-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid ethyl ester with 2-(N-acetyl-N-methylamino)thioacetamide in ethanol gave 1-ethyl-6-fluoro-7-[2-(N-acetyl-N-methylaminomethyl)-4-thiazolyl]-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid ethyl ester, mp 173°-175° C. which was then hydrolyzed in refluxing 6N hydrochloric acid to give the title compound, mp 230°-234° C. (dec).

reactant | 7-bromoacetyl-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid ethyl ester | C(C)OC(=O)C1=CN(C2=CC(=C(C=C2C1=O)F)C(CBr)=O)CC | C16H15BrFNO4
reactant | 2-(N-acetyl-N-methylamino)thioacetamide | C(C)(=O)N(C)CC(=S)N | C5H10N2OS
solvent | ethanol | C(C)O | C2H6O
product | 1-ethyl-6-fluoro-7-[2-(N-acetyl-N-methylaminomethyl)-4-thiazolyl]-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid ethyl ester | C(C)OC(=O)C1=CN(C2=CC(=C(C=C2C1=O)F)C=1N=C(SC1)CN(C)C(C)=O)CC | C21H22FN3O4S
